US07612067B2
Preparation of 8-(1-ethyl-1-fluoro-propyl)-2,6-dimethyl-3-[3-methyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine
To a −78° C. solution of 3-{2,6-dimethyl-3-[3-methyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazin-8-yl}-pentan-3-ol (0.23 g, 0.55 mmol) and CH2Cl2 (3 mL) is added a solution of [bis(2-methoxyethyl)amino]sulfur triflouride (0.14 g, 0.60 mmol) and CH2Cl2 (2 mL). The solution is warmed to ambient temperature and stirred overnight. The solution is washed with sat. NaHCO3 (5 mL) and concentrated. The reside is purified by ISCO column chromatography (15%-20% EtOAc/hexane gradient) furnish the title compound (0.13 g, 0.31 mmol, 57%). 1H NMR (CDCl3) δ 0.80 (t, J=7.5 Hz, 6H), 2.14 (s, 3H), 2.16-2.31 (m, 2H), 2.46 (s, 3H), 2.54 (s, 3H), 2.56 (s, 3H), 2.59-2.70 (m, 2H), 6.98 (s, 1H), 7.00 (d, J=7.6 Hz, 1H), 7.45 (d, J=7.8 Hz, 1H), 7.52 (s, 1H), 7.56 (dd, J=7.8, 7.6 Hz, 1H). LC/MS (m/z): calcd. for C24H27FN4S (M+H)+: 423.2; found: 423.4.

reactant | 3-{2,6-dimethyl-3-[3-methyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazin-8-yl}-pentan-3-ol | 0.55 mmol, 0.23 g | CC=1N=C2N(N=C(C=C2C(CC)(CC)O)C)C1C=1SC(=CC1C)C1=NC(=CC=C1)C | C24H28N4OS
reactant | [bis(2-methoxyethyl)amino]sulfur triflouride | 0.60 mmol, 0.14 g | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 8-(1-ethyl-1-fluoro-propyl)-2,6-dimethyl-3-[3-methyl-5-(6-methyl-pyridin-2-yl)-thiophen-2-yl]-imidazo[1,2-b]pyridazine | 0.31 mmol, 0.13 g, 57% | C(C)C(CC)(F)C=1C=2N(N=C(C1)C)C(=C(N2)C)C=2SC(=CC2C)C2=NC(=CC=C2)C | C24H27FN4S
